US08466168B2
3.i. (3-fluoro-6-methoxy-[1.5]naphthyridin-4-yl)-methanol
To an ice-chilled suspension of 3-fluoro-6-methoxy-[1.5]naphthyridine-4-carbaldehyde (5 g, 24.25 mmol; prepared as in WO 2006/032466) in MeOH (180 mL) was added NaBH4 (1.03 g, 26.68 mmol, 1.1 eq.) in one portion. After 30 min, the reaction mixture was warmed to rt. Water (180 mL) was added and the volatiles were removed under reduced pressure. The residue was filtered off and washed with water. The aq. filtrate was extracted twice with EA (2×100 mL). The combined org. layers were washed with brine (120 mL), dried over Na2SO4, filtered and evaporated under reduced pressure to afford a yellow solid. The residue was purified by CC (Hept-EA 1:1) to give the title intermediate as a pale yellow solid (4.01 g, 79% yield).

reactant | 3-fluoro-6-methoxy-[1.5]naphthyridine-4-carbaldehyde | 24.25 mmol, 5 g | FC=1C=NC2=CC=C(N=C2C1C=O)OC | C10H7FN2O2
reactant | NaBH4 | 26.68 mmol, 1.03 g, 1.1 eq. | [BH4-].[Na+]
reactant | Water | 180 mL | O | H2O
solvent | MeOH | 180 mL | CO | CH4O
product | (3-fluoro-6-methoxy-[1.5]naphthyridin-4-yl)-methanol | 4.01 g, 79% yield | FC=1C=NC2=CC=C(N=C2C1CO)OC | C10H9FN2O2
